US07452886B2
To a solution of 200 mg (0.59 mmoles) of 7-(2,2-dimethyl-propyl)-6-(2,6-dioxo-piperazin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 4 ml of pyridine, 184 mg (1.2 mmoles) of 1-butanesulfonylchloride is added at 0° C. The reaction mixture is allowed to warm to ambient temperature and stirred for 2 hours and the mixture is concentrated under reduced pressure. The obtained crude powder is dissolved in CH2Cl2, and the CH7Cl2 layer is washed with 1N aqueous HCl, brine, and then dried over MgSO4. The CH2Cl2 layer is concentrated under reduced pressure to give colorless powder, which is washed with ether to give 195 mg of desred 6-[4-(Butane-1-sulfonyl)-2,6-dioxo-piperazin-1-ylmethyl]-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 72% yield.

reactant | 7-(2,2-dimethyl-propyl)-6-(2,6-dioxo-piperazin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.59 mmoles, 200 mg | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(CNCC2=O)=O)(C)C | C17H20N6O2
reactant | 1-butanesulfonylchloride | 1.2 mmoles, 184 mg | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-[4-(Butane-1-sulfonyl)-2,6-dioxo-piperazin-1-ylmethyl]-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 195 mg, 72% yield | C(CCC)S(=O)(=O)N1CC(N(C(C1)=O)CC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C)=O | C21H28N6O4S
